US05430027
2',3',5'-Tri-O-benzoyl-2-chloro-N-(phenylmethoxy) adenosine
(This example was also prepared by general method A). 9-(2,3,5-Tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (2.0 g, 3.2 mmol), O-(phenylmethyl)hydroxylamine hydrochloride (0.77 g, 4.8 mmol) and diisopropylethylamine (1.03 g, 8.0 mmol) were dissolved in dioxan (50 ml). The reaction mixture was heated at reflux for 20 h, filtered and evaporated in vacuo. The crude product was coevaporated with dichloromethane and crystallised from a mixture of dichioromethane and methanol to provide the title compound (1.0 g, 43%), as white crystals, mp 115°-119° C., 1H NMR (CDCl3)γ 3.52-3.70 (2H, m, H-5'a and H-5'b) 3.95 (1H, d, H-4'), 4.15 (1H, dd, H-3'), 4.52 (1H, dd, H-2'), 5.00 (2H, s, CH2), 5.88 (1H, d, H-1'), 8.52 (1H, s, H-8).

reactant | 9-(2,3,5-Tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 3.2 mmol, 2.0 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | O-(phenylmethyl)hydroxylamine hydrochloride | 4.8 mmol, 0.77 g | Cl.C1(=CC=CC=C1)CON
reactant | diisopropylethylamine | 8.0 mmol, 1.03 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 2',3',5'-Tri-O-benzoyl-2-chloro-N-(phenylmethoxy) adenosine | 1.0 g, 43% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C=NC=2C(NOCC3=CC=CC=C3)=NC(=NC12)Cl | C38H30ClN5O8
